US05958942
iii) Synthesis of 4,5-dihydro-4-(4-trifluoroacetamido butan-1-yl)-3H-1,4,8b-triazaacenaphthylen-3-one
To a solution of 2.60 g (4.64 mmol) of 3-trichloro acetyl-5-[N-tert-butoxycarbonyl-N-(4-trifluoroacetamidobutan-1-yl)aminomethyl]imidazo[1,2-a]pyridine in 20 ml of ethanol was added 1.90 ml (23.22 mmol) of 12N HCl. The mixture was stirred for one hour at room temperature. The solvent and excess volume of hydrochloric acid were distilled off under reduced pressure. The residue was dissolved in a mixture of 20 ml of purified water and 20 ml of ethanol. To this solution was added a 2N aqueous solution of sodium hydroxide to neutralize. This solution was extracted with 100 ml of dichloromethane. The organic layer was washed with 100 ml of a saturated aqueous saline solution, dried over magnesium sulfate, and distilled off the solvent under reduced pressure. The residue was purified by silica gel column chromatography (eluent; dichloromethane:methanol=20:1) to afford 1.26 g of the desired compound (75.9%, pale yellow amorphous).

reactant | 3-trichloro acetyl-5-[N-tert-butoxycarbonyl-N-(4-trifluoroacetamidobutan-1-yl)aminomethyl]imidazo[1,2-a]pyridine | 4.64 mmol, 2.60 g | ClC(C(=O)C1=CN=C2N1C(=CC=C2)CN(CCCCNC(C(F)(F)F)=O)C(=O)OC(C)(C)C)(Cl)Cl | C21H24Cl3F3N4O4
reactant | HCl | 23.22 mmol, 12N, 1.90 ml | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 4,5-dihydro-4-(4-trifluoroacetamido butan-1-yl)-3H-1,4,8b-triazaacenaphthylen-3-one | 1.26 g, 75.9% | FC(C(=O)NCCCCN1C(C2=CN=C3C=CC=C(C1)N32)=O)(F)F | C15H15F3N4O2
